US04071524
A mixture of 59 g. (0.185 mole) of 2,5-bis-(2,2,2-trifluoroethoxy)nitrobenzene, about 15 g. of Raney nickel and 1200 ml. of ethanol is hydrogenated by shaking on a Parr hydrogenation apparatus with a hydrogen pressure of 40 to 50 p.s.i. for about five hours. The mixture is filtered, and the filtrate is evaporated to a liquid residue. The residue is distilled to provide 2,5-bis(2,2,2-trifluoroethoxy)aniline as a clear, colorless liquid, b.p. 95°-98° C/0.35 mm Hg.

reactant | 2,5-bis-(2,2,2-trifluoroethoxy)nitrobenzene | 0.185 mole | FC(COC1=C(C=C(C=C1)OCC(F)(F)F)[N+](=O)[O-])(F)F | C10H7F6NO4
reactant | hydrogen | [H][H] | H2
catalyst | Raney nickel | [Ni] | Ni
solvent | ethanol | C(C)O | C2H6O
product | 2,5-bis(2,2,2-trifluoroethoxy)aniline | FC(COC1=C(N)C=C(C=C1)OCC(F)(F)F)(F)F | C10H9F6NO2
